US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2,4-difluorobenzamide
As described for Example 9, 0.314 g (1.0 mmol) of 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine is reacted with 0.194 g (1.1 mmol) of 2,4-difluorobenzoyl chloride and 0.111 g (1.1 mmol) of triethylamine in 10 ml of dichloromethane for 1.5 hours at room temperature. The product is recrystallized from ethyl acetate-hexane to give 0.37 g of crystals, m.p. 215°-217° C.

reactant | 5-(4-aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 1.0 mmol, 0.314 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
reactant | 2,4-difluorobenzoyl chloride | 1.1 mmol, 0.194 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | triethylamine | 1.1 mmol, 0.111 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2,4-difluorobenzamide | 0.37 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=C(C=C3)F)F)=O | C28H20F2N2O2
